US08058045B2
5-(5-(3-Methyl-1,2,4-oxadiazol-5-yl)-4-(piperidin-4-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (Y-107)
To a solution of tert-butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (9 mg, 0.018 mmol) in dichloromethane (3 mL) was added trifluoroacetic acid (0.15 mL) at r.t. After 3 hr, the solution was evaporated to dryness and purified by ion exchange on SCX-II acidic resin (500 mg) eluting with methanol, then 2M ammonia-methanol. The basic fractions were combined and the solvent was removed in vacuo to give the title compound as a yellow solid (4 mg, 56%).

reactant | tert-butyl 4-((2-(5-cyanopyrazin-2-ylamino)-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.018 mmol, 9 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=NO1)C | C24H29N9O3
reactant | trifluoroacetic acid | 0.15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-(5-(3-Methyl-1,2,4-oxadiazol-5-yl)-4-(piperidin-4-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 4 mg, 56% | CC1=NOC(=N1)C=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NCC1CCNCC1 | C19H21N9O
